US07612075B2
C. 4-Benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one.
To a solution of 4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-3,4-dihydro-1H-pyrazine-2-one (0.3 g, 1 mmol) in CH2Cl2 is added Et3SiH (1.57 ml, 10 mmol). The resulting solution is cooled to 0° C. and CF3CO2H (2.2 ml, 30 mmol) is added dropwise. The mixture is stirred 16 hours at room temperature, washed with a saturated aqueous NaHCO3 solution, brine. The solution is dried over MgSO4, concentrated. The resulting crude product is purified by column chromatography on silica gel eluting with a gradient of 50% AcOEt:Hexane to 100% AcOEt. The title compound (0.138 g, 46% yield) is obtained as an oil.

reactant | 4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-3,4-dihydro-1H-pyrazine-2-one | 1 mmol, 0.3 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(NC=C1)=O)CCSC | C15H18N2O3S
reactant | Et3SiH | 10 mmol, 1.57 ml | [SiH](CC)(CC)CC | C6H16Si
reactant | CF3CO2H | 30 mmol, 2.2 ml | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one | 0.138 g, 46% yield | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(NCC1)=O)CCSC | C15H20N2O3S
